US07157585B2
The acid (218 mg, 0.7 mmol) in tetrahydrofuran (20 mL) was treated with triethylamine (108 μl, 0.78 mmol) and diphenylphosphonic azide (161 μl, 0.78 mmol) and stirred at room temperature for 1.5 hours. Benzyl alcohol (116 μl, 1.12 mmol) was then added and the mixture was heated at reflux for 18 hours. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography (ethyl acetate/hexane, 1:1) to give the N-benzyloxycarbonylaniline as a brown solid (87 mg, 30%).

reactant | triethylamine | 0.78 mmol, 108 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 0.78 mmol, 161 μl | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | Benzyl alcohol | 1.12 mmol, 116 μl | C(C1=CC=CC=C1)O | C7H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-benzyloxycarbonylaniline | 87 mg, 30% | C(C1=CC=CC=C1)OC(=O)NC1=CC=CC=C1 | C14H13NO2
